US05336663
2-Chloro-5-nitropropiophenone
31 ml of 100% nitric acid (dl.52) are introduced into the reaction vessel, and 6 g of o-chloropropiophenone are added dropwise at -10° C. in the course of 15 minutes in such a way that the reaction temperature is between -5° C. and -10° C. To complete the reaction, stirring is continued at 0° C. for 45 minutes. The reaction mixture is subsequently poured onto 300 g of ice, and the aqueous mixture is extracted twice using 200 ml portions of diethyl ether. The organic phase is washed with 100 ml of water, twice with 100 ml portions of 2N potassium hydrogen carbonate solution and finally with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The residue is recrystallised from diisopropyl ether/n-hexane; m.p.: 55°-56° C.

reactant | nitric acid | 31 ml | [N+](=O)(O)[O-] | HNO3
reactant | o-chloropropiophenone | 6 g | ClC1=C(C=CC=C1)C(CC)=O | C9H9ClO
product | 2-Chloro-5-nitropropiophenone | CCC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C9H8ClNO3
